US04582821
Z-Phe-Ser(Bzl)-Ala-LeuCH2Cl was prepared by coupling Z-Phe-Ser(Bzl)-Ala-OH (1.37 g, 2.5 mmoles) to H-LeuCH2Cl.HCl by a mixed anhydride coupling procedure substantially analogous to that used for the preparation of Z-Phe-Gly-Leu-LeuCH2Cl in Procedure E. Product was obtained as a crystalline solid, 0.98 g (mp 167°-168°).

reactant | Z-Phe-Ser(Bzl)-Ala-OH | 2.5 mmoles, 1.37 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C30H33N3O7
reactant | H-LeuCH2Cl.HCl | N[C@@H](CC(C)C)C(=O)CCl.Cl
reactant | Z-Phe-Gly-Leu-LeuCH2Cl | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C32H43ClN4O6
product | Z-Phe-Ser(Bzl)-Ala-LeuCH2Cl | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C37H45ClN4O7
